US04128548
2,2-Dimethyl-1-(2-hydroxyethyl)-7-methoxy-3-methylamino-1,2,3,4-tetrahydronaphthalene hydrochloride
A solution of 121.5 g of 2,2-dimethyl-7-methoxy-3-(N-methyl-p-toluenesulphonamido)-1-[2-(tetrahydro-2-pyranyloxy)ethyl]-1,2,3,4-tetrahydronaphthalene in 300 ml of absolute ether and 5 ml of dry dioxane is added dropwise to 1500 ml of liquid ammonia which is stirred mechanically. At the same time small pieces of sodium (total amount 30 g) are added. After completion of the addition, which takes some 2 hours, the colourless reaction mixture is diluted cautiously with 200 ml of ether whereafter 15 g of ammonium chloride is added and the ammonia is allowed to evaporate. Then water is added and the aqueous layer separated from the organic one. The aqueous solution is shaken twice with ether and the combined organic solutions are extracted with an excess of dilute hydrochloric acid. The acidic aqueous solution is heated on a steambath during 1.5 hours. After cooling, the basic reaction product is set free by the addition of 4 N sodium hydroxide and gathered by extraction with ether. The ethereal solution is dried and evaporated. The product is converted into the hydrochloride by means of ethanolic hydrogen chloride. The crystalline precipitate which is formed has a melting point of 240°-244° C. It is not a single isomer but mixed with a lower melting one. Accordingly, from the mother liquor more soluble and lower melting (205°-210° C.) crystallisates can be obtained. No special attempts are made to achieve a separation of the isomers. The total yield is 76%.

reactant | 2,2-dimethyl-7-methoxy-3-(N-methyl-p-toluenesulphonamido)-1-[2-(tetrahydro-2-pyranyloxy)ethyl]-1,2,3,4-tetrahydronaphthalene | 121.5 g | CC1(C(C2=CC(=CC=C2CC1N(S(=O)(=O)C1=CC=C(C=C1)C)C)OC)CCOC1OCCCC1)C | C28H39NO5S
reactant | ammonia | N | H3N
reactant | sodium | 30 g | [Na] | Na
reactant | ammonium chloride | 15 g | [Cl-].[NH4+]
solvent | ether | 300 ml | CCOCC | C4H10O
solvent | dioxane | 5 ml | O1CCOCC1 | C4H8O2
solvent | ether | 200 ml | CCOCC | C4H10O
product | 2,2-Dimethyl-1-(2-hydroxyethyl)-7-methoxy-3-methylamino-1,2,3,4-tetrahydronaphthalene hydrochloride | yield is 76% | Cl.CC1(C(C2=CC(=CC=C2CC1NC)OC)CCO)C | InChI=1S/C16H25NO2.ClH/c1-16(2)14(7-8-18)13-10-12(19-4)6-5-11(13)9-15(16)17-3;/h5-6,10,14-15,17-18H,7-9H2,1-4H3;1H
